US04751163
(3) Synthesis of 1-(p-diethylaminophenyl)-1,4,4-triphenyl-1,3-butadiene
2.79 g of 3-(p-diethylaminophenyl)-3-phenylacrolein and 3.34 g of diethyl diphenylmethylphosphonate were dissolved in 100 ml of DMF, and 1.23 g of potassium t-butoxide was added thereto at room temperature. The temperature of the reaction mixture was increased to 31° C. by a heat generated and, thereafter, the reaction was conducted at room temperature for 4 hours. The reaction mixture was poured into 100 cc of ice water and stirred. Deposited crystals were collected by filtration, dissolved in benzene, and separated and purified on silica gel column chromatography. After distilling off benzene from the eluate, the purified product was recrystallized from ethyl acetate to obtain 2.9 g (yield: 68% (theory)) of a pale-yellow crystal. m.p.: 124°-5° C.

reactant | 3-(p-diethylaminophenyl)-3-phenylacrolein | 2.79 g | C(C)N(C1=CC=C(C=C1)C(=CC=O)C1=CC=CC=C1)CC | C19H21NO
reactant | diethyl diphenylmethylphosphonate | 3.34 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)P(OCC)(OCC)=O | C17H21O3P
reactant | potassium t-butoxide | 1.23 g | CC(C)([O-])C.[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(p-diethylaminophenyl)-1,4,4-triphenyl-1,3-butadiene | yield: 68% | C(C)N(C1=CC=C(C=C1)C(=CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)CC | C32H31N
